US05916899
A solution of homophthalic anhydride (324 mg, 2 mmoles) and triethylamine (0.021 ml, 0.15 mmoles) is prepared in DMF (5 ml) and added to each packet. After heating at 80° C. for 16 hrs the packets are then washed with DMF (3×30 ml) and DCM (3×30 ml).

reactant | triethylamine | 0.15 mmoles, 0.021 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | homophthalic anhydride | 2 mmoles, 324 mg | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
